* C:\Workspace\Git\BASIC_MRI_RFPA\LTSPICE simulations\RFPA_IRF630_pushpullx2_tran_param.asc
R1 s1p 0 {Rs}
R2 dp N003 {Rfb}
C1 N003 g1p {Cfb}
R3 b1p VGbias {Rgbias}
R4 g1p b1p {Rg_damp}
L1 b1p g1p {Lg_damp}
C2 b1p N005 {Csource}
V1 VD 0 {VD}
L3 VD dp {Ld}
L5 dp VD {KOUT_LP} Rser=50m
L6 VD dn {KOUT_LP} Rser=50m
L7 OUT 0 {KOUT_LS}
RL OUT 0 {Rload_HV_SE}
L8 in1p 0 {KIN_LS}
L9 0 in1n {KIN_LS}
L10 t 0 {KIN_LP}
V4 VGbias N001 PULSE({VG_init} {VG} {VG_tdelay} {VG_trise} {VG_trise} {VG_tpad*2+tpulse-VG_trise} 10m)
V2 t 0 SINE(0 {Vin} {f0} {VG_tdelay+VG_tpad} 0 0 {tpulse*f0}) AC {2*AC_Vin_Vrms} Rser={Rsource_HV_SE}
B1 N001 0 V={VG*smallsig()}
B2 N002 0 V=V(OUT)
R17 OUT_bpf N002 1
L15 OUT_bpf 0 {bpf_L}
C9 OUT_bpf 0 {bpf_C}
XM1 N004 N006 N007 irf630
L17 N007 s1p {Lpar_S} Rpar={EPR_S}
L18 dp N004 {Lpar_D} Rpar={EPR_D}
L19 g1p N006 {Lpar_G} Rpar={EPR_G}
R18 s2p 0 {Rs}
R19 dp N008 {Rfb}
C10 N008 g2p {Cfb}
R20 b2p VGbias {Rgbias}
R21 g2p b2p {Rg_damp}
L16 b2p g2p {Lg_damp}
C11 b2p N010 {Csource}
L20 VD dp {Ld}
XM2 N009 N011 N012 irf630
L21 N012 s2p {Lpar_S} Rpar={EPR_S}
L22 dp N009 {Lpar_D} Rpar={EPR_D}
L23 g2p N011 {Lpar_G} Rpar={EPR_G}
R5 s1n 0 {Rs}
R6 dn N013 {Rfb}
C3 N013 g1n {Cfb}
R7 b1n VGbias {Rgbias}
R8 g1n b1n {Rg_damp}
L2 b1n g1n {Lg_damp}
C4 b1n N015 {Csource}
L4 VD dn {Ld}
XM3 N014 N016 N017 irf630
L11 N017 s1n {Lpar_S} Rpar={EPR_S}
L12 dn N014 {Lpar_D} Rpar={EPR_D}
L13 g1n N016 {Lpar_G} Rpar={EPR_G}
R9 s2n 0 {Rs}
R10 dn N018 {Rfb}
C5 N018 g2n {Cfb}
R11 b2n VGbias {Rgbias}
R12 g2n b2n {Rg_damp}
L14 b2n g2n {Lg_damp}
C6 b2n N020 {Csource}
L24 VD dn {Ld}
XM4 N019 N021 N022 irf630
L25 N022 s2n {Lpar_S} Rpar={EPR_S}
L26 dn N019 {Lpar_D} Rpar={EPR_D}
L27 g2n N021 {Lpar_G} Rpar={EPR_G}
R13 in1p 0 {atten_Rshunt_in}
R14 N005 0 {atten_Rshunt_out}
R15 N005 in1p {atten_Rser}
R16 in1p 0 {atten_Rshunt_in}
R22 N010 0 {atten_Rshunt_out}
R23 N010 in1p {atten_Rser}
R24 in1n 0 {atten_Rshunt_in}
R25 N015 0 {atten_Rshunt_out}
R26 N015 in1n {atten_Rser}
R27 in1n 0 {atten_Rshunt_in}
R28 N020 0 {atten_Rshunt_out}
R29 N020 in1n {atten_Rser}
.param Rg_damp=15
.param Lg_damp=47n
.net I(RL) V2
.ac dec 1k 100k 200meg
;.tran 0 {VG_tdelay+VG_tpad+50u+10/f0} {VG_tdelay+VG_tpad+50u} 1u
; FOR MEASURING COMPRESSION
;.step oct param Vin_scale 0.0625 1 4
.meas TRAN Vout_RMS_fund RMS V(OUT_bpf)
.meas TRAN Av_fund RMS {V(OUT_bpf)/(Vin/1.414)}
.meas TRAN Pout_fund PARAM {(Vout_RMS_fund**2/Rload_HV_SE)}
.meas TRAN G_dB PARAM 20*log10(Av_fund)
.meas TRAN Pbias AVG -V(VD)*I(V1)
.meas TRAN Efficiency PARAM Pout_fund/Pbias
; SPICE models/subcircuits to include
.lib irf630_sihf630_PS_formatted.spi
.lib irf530n.sub
.lib irf540n.sub
.lib irf630N.sub
.lib irf520.sub
.lib irf520n.sub
* trace formulas\nTransconductance of FET Gm0\nIx(M1:D)/V(g,s)\nEffective transconductance Gm\nIx(M1:D)/V(g)\nStability factor\n(1-abs(S11(v2))**2-abs(S22(v2))**2+abs(S11(v2)*S22(v2)-S12(v2)*S21(v2))**2)/(2*abs(S21(v2)*S12(v2)))\njust delta\nS11(v2)*S22(v2)-S12(v2)*S21(v2)
;step 1:
;Choose :
;Nfets (number of FETs sharing PEP)
.param Nfets=4
.param PEPnet_target=200
.param Rload_net=50
;PEP (peak output power)
;VD (drain bias voltage)
;VDmin (minimum drain voltage of FET, at max amplitude)
.param PEP_target={PEPnet_target/Nfets}
.param VD_target=48
.param VDmin_target=12
;Voutpk=VD_target-VDmin_target
.param Voutpk_target={VD_target-VDmin_target}
;Rload_LV_SE=Voutpk_target^2/(2*PEP_target)
.param Rload_LV_SE_target={Voutpk_target**2/(2*PEP_target)}
;step 1.1
; can use the exact target Rload_LV_SE_target
.param Rload_LV_SE={Rload_LV_SE_target}
.param VD=VD_target
.param PEP=PEP_target
.param Voutpk=Voutpk_target
.param VDmin=VDmin_target
; or override it with something realizable with the transformers
; if I override Rload, then PEP will be allowed  to change
;.param Rload_LV_SE=12.5
;.param PEP={PEP_target*Rload_LV_SE/Rload_LV_SE_target}
; and recalculate other things
;.param Voutpk={sqrt(Rload_LV_SE*2*PEP_target)}
;.param VD=VD_target
;.param VDmin={VD-Voutpk}
;For impedance match on output, set Rout_LV_SE=Rload_LV_SE
.param Rout_LV_SE={Rload_LV_SE}
;step 2:
; choose IDmin (minimum drain current of FET, at max amplitude)
.param IDmin=0.5
; ID=IDmin+Voutpk/Rload_LV_SE
.param ID={IDmin+Voutpk/Rload_LV_SE}
; given Gm0, the Gm of the FET at ID
; and choose Gm, between 0.1Gm0 and 0.5Gm0
;.param Gm0=2
.param Gm=1
; source resistor Rs=(Gm0-Gm)/(Gm0*Gm)
.param Rs={(Gm0-Gm)/(Gm0*Gm)}
; calculate gate bias voltage
; Vth depends on MOSFET model
.param VG={ID*Rs+Vth}
;step 3:
; choose gate bias resistor Rgbias
.param Rgbias=100
; choose source resistance
.param Rsource_LV_SE=12.5
; in parallel they make Rsource2
.param Rsource2_LV_SE = {(Rgbias*Rsource_LV_SE)/(Rgbias+Rsource_LV_SE)}
; calculate feedback resistance Rfb
.param Rfb=Rout_LV_SE*(1+Gm*Rsource2_LV_SE)-Rsource2_LV_SE
;step 4:
; choose f0/w0
.param f0=5.1e6
.param w0={2*3.14159*f0}
; calculate blocking caps
; choose cutoff fc=f0/fcratio
.param fcratio_fb=10
.param fcratio_source=10
;.param fc={f0/fcratio}
;.param wc={w0/fcratio}
.param Cfb={fcratio_fb/(w0*Rfb)}
.param Csource={fcratio_source/(w0*Rsource_LV_SE)}
; calculate drain bias inductor to cancel Coss
;.param Coss=100p
.param Ld={1/w0**2/Coss}
; calculate Rin, looking from Rsource
.param Rin_LV_SE={Rgbias*(Rfb+Rload_LV_SE)/(Rgbias*(Gm*Rload_LV_SE+1)+Rfb+Rload_LV_SE)}
.meas PEP PARAM {PEP}
.meas VD PARAM {VD}
.meas VDmin PARAM {VDmin}
.meas Rload_LV_SE_target PARAM {Rload_LV_SE_target}
.meas Rload_LV_SE PARAM {Rload_LV_SE}
.meas IDmin PARAM {IDmin}
.meas ID PARAM {ID}
.meas Gm0 PARAM {Gm0}
.meas Gm PARAM {Gm}
.meas Rs PARAM {Rs}
.meas Rgbias PARAM {Rgbias}
.meas Rsource_LV_SE PARAM {Rsource_LV_SE}
.meas Rfb PARAM {Rfb}
.meas Cfb PARAM {Cfb}
.meas Csource PARAM {Csource}
.meas Rin_LV_SE PARAM {Rin_LV_SE}
.meas VG PARAM {VG}
.meas Coss PARAM {Coss}
.meas Ld PARAM {Ld}
.meas KIN_LP PARAM {KIN_LP}
.meas KIN_LS PARAM {KIN_LS}
.meas KOUT_LP PARAM {KOUT_LP}
.meas KOUT_LS PARAM {KOUT_LS}
.meas Rload_HV_SE PARAM {Rload_HV_SE}
.meas Rsource_HV_SE PARAM {Rsource_HV_SE}
KOUT L5 L6 L7 1
;inductance per each unit winding
.param KOUT_AL=10u
;winding on each side of low voltage center-tapped side
.param KOUT_N_LV=1
.param KOUT_N_HV=4
.param KOUT_LP={KOUT_N_LV**2*KOUT_AL}
.param KOUT_LS={KOUT_N_HV**2*KOUT_AL}
.param Rload_HV_SE={2*Rload_LV_SE*KOUT_LS/(4*KOUT_LP)/(Nfets/2)}
KIN L10 L8 L9 1
;inductance per each unit winding
.param KIN_AL=10u
;winding on each side of low voltage center-tapped side
.param KIN_N_LV=1
.param KIN_N_HV=4
.param KIN_LP={KIN_N_HV**2*KOUT_AL}
.param KIN_LS={KIN_N_LV**2*KOUT_AL}
.param Rsource_HV_SE={2*Rsource_LV_SE*KIN_LP/(4*KIN_LS)/(Nfets/2)}
.param tpulse=1m
.param VG_tpad=50u
.param VG_trise=10u
.param VG_tdelay=50u
.param VG_init = 0
.param AC_Pin_dBm=17
;.param AC_Vin_Vrms={sqrt(10**(AC_Pin_dBm/10)/1000*50)}
.param AC_Vin_Vrms=1.787
.param Vin_scale=1
.param Vin={20*Vin_scale}
.param bpf_Q=10
.param bpf_C={bpf_Q/(w0)}
.param bpf_L={1/(bpf_Q*w0)}
.param Lpar_S=7.5n
.param EPR_S=100
.param Lpar_D=4.5n
.param EPR_D=100
.param Lpar_G=7.5n
.param EPR_G=100
.param atten_Rin={Rsource_LV_SE}
.param atten_Rout={Rsource_LV_SE}
;.param atten_Rin=12.5
;.param atten_Rout=12.5
.param atten_dB=3
;atten_Rin
;atten_Rout
;atten_Vout
.param atten_Vout={sqrt(atten_Rout/atten_Rin/(10**(atten_dB*0.1)))}
;.param atten_Rshunt_in={((atten_Rout*atten_Rin)-(atten_Rin**2)*(atten_Vout**2))}
.param atten_Rshunt_in={((atten_Rout*atten_Rin)-(atten_Rin**2)*(atten_Vout**2))/(atten_Rout+(atten_Rin*atten_Vout**2)-(2*atten_Rin*atten_Vout))}
.param atten_Rshunt_out={atten_Vout/(1/atten_Rin-atten_Vout/atten_Rout-1/atten_Rshunt_in)}
.param atten_Rser={((1-atten_Vout)*(atten_Rin*atten_Rshunt_in))/(atten_Rshunt_in-atten_Rin)}
.meas atten_Vout PARAM {atten_Vout}
.meas atten_Rshunt_in PARAM {atten_Rshunt_in}
.meas atten_Rshunt_out PARAM {atten_Rshunt_out}
.meas atten_Rser PARAM {atten_Rser}
* BPF for measuring fundamental \ncomponent of RFPA output
* Input/output transformer baluns
;.include /FET_bias_conditions/fetprops_irf510_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf520_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf520n_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf530_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf530n_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf540n_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf630_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf630n_ID_1p0.inc
;.include /FET_bias_conditions/fetprops_irf510_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf520_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf520n_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf530_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf530n_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf540n_ID_3p1.inc
.include /FET_bias_conditions/fetprops_irf630_ID_3p1.inc
;.include /FET_bias_conditions/fetprops_irf630n_ID_3p1.inc
; measurements of AC response
; get some network parameters at f0
.meas f0 PARAM {f0}
.meas AC S21_at_f0 FIND mag(S21(v2)) AT f0
.meas AC S11_at_f0 FIND mag(S11(v2)) AT f0
.meas AC S22_at_f0 FIND mag(S22(v2)) AT f0
.meas AC kstab_at_f0 FIND kstab(S11(v2),S21(v2),S12(v2),S22(v2)) AT f0
;also give Zin and Zout at f0. But output will be in dB/phase....
.meas AC Zin_at_f0 FIND mag(Zin(v2)) AT f0
.meas AC Zout_at_f0 FIND mag(Zout(v2)) AT f0
; find the actual peak of S21
.MEAS AC S21_at_S21_max max mag(S21(v2)); find the peak response
.MEAS AC f_at_S21_max when mag(S21(v2))=(S21_at_S21_max)
; find the minimum kstab
.MEAS AC kstab_at_stab_min min kstab(S11(v2),S21(v2),S12(v2),S22(v2))
.MEAS AC f_at_kstab_min when kstab(S11(v2),S21(v2),S12(v2),S22(v2))=(kstab_at_stab_min)
.func kstab(S11,S21,S12,S22) {(1-abs(S11)**2-abs(S22)**2+abs(S11*S22-S12*S21)**2)/(2*abs(S21*S12))}
.backanno
.end
